US07713979B2
3-Pent-4-enoyl-oxazolidin-2-one
Using the method of preparation 20 and reagents oxazolidin-2-one (10.22 g, 117.3 mmol) and pent-4-enoyl chloride affords 10.62 g (53%) of the title compound as a colorless oil.

reactant | oxazolidin-2-one | 117.3 mmol, 10.22 g | O1C(NCC1)=O | C3H5NO2
reactant | pent-4-enoyl chloride | C(CCC=C)(=O)Cl | C5H7ClO
product | 3-Pent-4-enoyl-oxazolidin-2-one | 10.62 g, 53% | C(CCC=C)(=O)N1C(OCC1)=O | C8H11NO3
